US07384934B2
7-Fluoro-2-isopropyl-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride
Heat a solution of 2-(5-fluoro-2-nitro-phenylamino)-5-isopropyl-benzonitrile (0.372 g, 1.24 mmol) in ethanol (6 ml) to 60° C. Add a solution of tin (II) chloride (0.707 g, 3.73 mmol) in 5.0 N hydrochloric acid (6 ml) and heat the resulting mixture to reflux for 16 hours. Cool the reaction to room temperature, add 30 ml of 5.0 N hydrochloric acid and place the mixture in a freezer for 16 hours. Precipitate the product from the solution and collect by filtration. Wash solid with 5.0 N hydrochloric acid to obtain 0.365 g of the title compound (1.19 mmol, 96% yield) as a yellow amorphous solid: Mass Spectrum (m/e): 270(M+1).

reactant | 2-(5-fluoro-2-nitro-phenylamino)-5-isopropyl-benzonitrile | 1.24 mmol, 0.372 g | FC=1C=CC(=C(C1)NC1=C(C#N)C=C(C=C1)C(C)C)[N+](=O)[O-] | C16H14FN3O2
reactant | tin (II) chloride | 3.73 mmol, 0.707 g | [Sn](Cl)Cl
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 5.0 N, 6 ml | Cl | ClH
solvent | hydrochloric acid | 5.0 N, 30 ml | Cl | ClH
product | 7-Fluoro-2-isopropyl-5H-dibenzo[b,e][1,4]diazepin-11-ylamine hydrochloride | 1.19 mmol, 0.365 g, 96% yield | Cl.FC1=CC2=C(N=C(C3=C(N2)C=CC(=C3)C(C)C)N)C=C1 | InChI=1S/C16H16FN3.ClH/c1-9(2)10-3-5-13-12(7-10)16(18)20-14-6-4-11(17)8-15(14)19-13;/h3-9,19H,1-2H3,(H2,18,20);1H
